US06313153B1
Synthesis of (E)-N-[2-(3-hydroxyphenyl)-2-hydroxyethyl-3-(3-pyridyl)-2-propenoic acid amide (Compound 157)
Pivaloyl chloride (5.17 ml, 1.05 eq.) was added to a solution of trans-3-(3-pyridyl)acrylic acid (5.96 g, 40 mmol) and triethylamine (5.6 ml, 40 mmol) in dichloromethane (80 ml) and stirred at room temperature for 10 minutes. A solution of dl-α-aminomethyl-3-hydroxybenzylalcohol hydrochloride (7.58 g, 40 mmol) and triethylamine (11.1 ml, 80 mmol) in dichloromethane (80 ml) was added and stirred at room temperature for 1 hour. The precipitated crystal was collected to yield the titled compound (7.51 g, 66%).

reactant | Pivaloyl chloride | 5.17 ml, 1.05 eq. | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | trans-3-(3-pyridyl)acrylic acid | 40 mmol, 5.96 g | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
reactant | triethylamine | 40 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | α-aminomethyl-3-hydroxybenzylalcohol hydrochloride | 40 mmol, 7.58 g | Cl.NCC(C1=CC(=CC=C1)O)O
reactant | triethylamine | 80 mmol, 11.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2-(3-hydroxyphenyl)-2-hydroxyethyl-3-(3-pyridyl)-2-propenoic acid amide | 7.51 g, 66% | OC=1C=C(C=CC1)C(C(=O)N)=C(C=1C=NC=CC1)CCO | C16H16N2O3
